US07429609B2
3-Iodo-1H-pyrazolo[4,3-b]pyridine
In the similar method as described in Production example 206, 9.5 g of N-iodosuccinimide was reacted on 5 g of 1H-pyrazolo[4,3-b]pyridine, to afford 5.9 g of the title compound as a colorless powder.

reactant | N-iodosuccinimide | 9.5 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 1H-pyrazolo[4,3-b]pyridine | 5 g | N1N=CC2=NC=CC=C21 | C6H5N3
product | 3-Iodo-1H-pyrazolo[4,3-b]pyridine | 5.9 g | IC1=NNC=2C1=NC=CC2 | C6H4IN3
